* source EC_PROJECT_3_PART_4
R_R4         0 N00081  {R1}  
R_R5         N00299 N00179  4  
E_E1         N00299 0 N00081 0 3
C_C1         N00081 N00179  0.2  
L_L1         0 N00179  2  
V_V1         N00081 0  
+SIN 1 30 0.31847133 0 0 0
.PARAM  R1=1
